US05276168
B. 3,4-Dihydro-2,2-dimethyl-4-(2-oxo-3-phenyl-1-imidazolidinyl)-2H-1-benzopyran-6-carbonitrile
To a solution of N-(6-cyano-2,2-dimethyl-3,4-dihydro-2H-1-benzopyran-4-yl)-N'-phenylethylenediamine (0.36 g, 1.12 mmole, from Example 21, part A) and triethylamine (0.12 g, 1.18 mmole) in methylene chloride (4 ml) cooled to 0° C. was added a solution of 4-nitrophenyl chloroformate (0.24 g, 1.18 mmole) dissolved in methylene chloride (3 ml). The reaction mixture was stirred at room temperature for four hours. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and 5% aqueous HCl solution. The organic phase was washed with 2N NaOH solution, saturated NaCl solution, dried over MgSO4 and solvent evaporated to obtain 420 mg of an orange gum. The crude product was chromatographed on silica eluting with hexane/ethyl acetate (4:1) to obtain 0.30 g of the title compound as a pure white solid. m.p.=166-168° C. 1H NMR (DMSO-d6) δ7.61 (m,4H), 7.35 (m,2H), 7.03 (m,1H), 6.95 (d, J=8.21 Hz, 1H), 5.21 (dd, J=6.45 and 11.73 Hz, 1H), 3.88 (m, 2H), 3.36 (m 1H), 3.14 (m, 1H), 2.03 (m, 2H), 1.47 (s, 3H), 1.33 (s, 3H); 13C NMR (DMSO-d6) δ158.08, 157.13, 140.58, 132.86, 131.56, 128.63, 121.86, 121.63, 119.15, 118.52, 117.05, 102.54, 77.31, 44.68, 42.06, 36.56, 34.06, 29.36, 24.01; MS: (M+H)+ @348.

reactant | N-(6-cyano-2,2-dimethyl-3,4-dihydro-2H-1-benzopyran-4-yl)-N'-phenylethylenediamine | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)NCCNC2=CC=CC=C2)C1 | C20H23N3O
reactant | triethylamine | 1.18 mmole, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 1.18 mmole, 0.24 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dihydro-2,2-dimethyl-4-(2-oxo-3-phenyl-1-imidazolidinyl)-2H-1-benzopyran-6-carbonitrile | 420 mg | CC1(OC2=C(C(C1)N1C(N(CC1)C1=CC=CC=C1)=O)C=C(C=C2)C#N)C | C21H21N3O2
